US04000302
4-(2-Aminoethoxymethyl)imidazole (2.24 g.) was caused to react with methylisothiocyanate (1.21 g.) in isopropyl alcohol (25 ml.) in the usual way. The crude product was purified by chromatography on a column of silica gel with ethyl acetate as eluant and subsequently on a dry column of alumina, using chloroform. The final product was recrystallised from ethyl acetate to give N-methyl-N'-[2-(4-imidazolylmethoxy)ethyl]thiourea (0.80 g.), m.p. 96°-98°.

reactant | 4-(2-Aminoethoxymethyl)imidazole | 2.24 g | NCCOCC=1N=CNC1 | C6H11N3O
reactant | methylisothiocyanate | 1.21 g | CN=C=S | C2H3NS
solvent | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
product | N-methyl-N'-[2-(4-imidazolylmethoxy)ethyl]thiourea | 0.80 g | CNC(=S)NCCOCC=1N=CNC1 | C8H14N4OS
